US07935699B2
A solution of 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-(3-oxo-cyclobutyl)-propionic acid (65 mg, 0.20 mmol) in methylene chloride (8 mL) was cooled to 0° C. To this solution was added dropwise a solution of oxalyl chloride in methylene chloride (2 M solution, 120 μL, 0.24 mmol) and N,N-dimethylfomamide (one drop) which was then stirred at 0° C. for 20 minutes and 40 min at 25° C. After this time, the reaction was concentrated in vacuo and azeotroped with methylene chloride (10 ml). In a separate flask a solution of 1-(2-methoxy-2-methyl-propyl)-1H-pyrazol-3-ylamine (36 mg, 0.22 mmol), 2,6-lutidine (34 μL, 0.29 mmol) in methylene chloride (8 mL) was cooled to 0° C. in an ice bath. To this solution was then added the solution of the prepared acid chloride in methylene chloride (5 mL) dropwise. After addition was complete the reaction was then stirred at 0° C. for 15 min and at 25° C. for 18 h. After this time the reaction was concentrated in vacuo. Purification on an AnaLogix Intelliflash system (40 g column, 50% ethyl acetate/hexanes to 100% ethyl acetate) afforded 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-N-[1-(2-methoxy-2-methyl-propyl)-1H-pyrazol-3-yl]-3-(3-oxo-cyclobutyl)-propionamide (49 mg, 52%) as an off-white solid: [α]29589=−14.0° (c=0.55, CHCl3); 1H NMR (300 MHz, DMSO-d6) δ ppm 1.04, 1.05 (2×s, 6H, 2×CH3), 1.93-2.40 (m, 3H, CH and CH2), 2.69-2.84 (m, 2H, 2×CH or 2×CH2), 2.99-3.12 (m, 2H, 2×CH or 2×CH2), 3.14 (s, 3H, OCH3), 3.34 (s, 3H, SO2CH3), 3.88 (t, J=7.8 Hz, 1H, ArCHCO2), 3.98 (s, 2H, NCH2), 6.47 (d, J=2.3 Hz, 1H, Ar), 7.49 (d, J=2.3 Hz, 1H, Ar), 7.61 (dd, Jm=1.2 Hz, Jo=8.3 Hz, 1H, Ar), 7.73 (d, Jm=1.2 Hz, 1H, Ar), 8.02 (d, Jo=8.3 Hz, 1H, Ar), 10.84 (s, 1H, NH).

reactant | 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-(3-oxo-cyclobutyl)-propionic acid | 0.20 mmol, 65 mg | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)O)CC1CC(C1)=O | C14H15ClO5S
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(2-methoxy-2-methyl-propyl)-1H-pyrazol-3-ylamine | 0.22 mmol, 36 mg | COC(CN1N=C(C=C1)N)(C)C | C8H15N3O
reactant | 2,6-lutidine | 0.29 mmol, 34 μL | N1=C(C=CC=C1C)C | C7H9N
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.24 mmol, 2 M, 120 μL | C(Cl)Cl | CH2Cl2
product | 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-N-[1-(2-methoxy-2-methyl-propyl)-1H-pyrazol-3-yl]-3-(3-oxo-cyclobutyl)-propionamide | 49 mg, 52% | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)NC1=NN(C=C1)CC(C)(C)OC)CC1CC(C1)=O | C22H28ClN3O5S
